Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
GI bleed
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o dementia and severe esophageal strictures s/p G-tube 
___ for feeding with last esophageal dilation ___ was 
transferred from ___ with melena. Daughters at bedside report 
that he went to a "scan of the chest" on ___ at ___ and 
since that time patient has had severe heart burn (they are 
unsure what the scan was for). Then last night he developed 
large black stools.  

At ___ where course was significant for tachycardia of 125 and 
H/H 9.8/30.2. He was given 1L NS and started on Protonix gtt. 
Given known complicated esophageal pathology EGD with pediatric 
scope was attempted but unable to pass through strictures and 
then patient transferred to ___.  

In the ED, initial vitals were: 98.7 73 103/55 16 100% RA  
- Exam notable for: Alert and oriented x2 - thinks it 1980s. 
Guaiac positive  
 
Labs notable for:  H/H 8.1/25, INR 1.2, Alb 3.3, Na 146  
 
Imaging was notable for: none obtained  
- GI was consulted: no recs given  
- Patient was given:  
___ 19:36 IV Pantoprazole (8 mg/hr ordered) 
___ Started 8 mg/hr  
- Vitals prior to transfer: 98.6 101 114/52 23 100% RA  
 
Upon arrival to the floor patient feels well other than being 
tired. His daughters are at baseline and say at night he is AOx1 
at best. Patient denies any specific pains.  
 
REVIEW OF SYSTEMS: complete ROS obtained and is otherwise 
negative. 
 
Past Medical History:
Status post right total knee arthroplasty ON ___  
HTN  
Dementia, unknown what type  
GERD  
SCC skin  
Esophageal strictures, details unknown: G-tube placed ___, 
last exchange middle of ___ 
 
Social History:
___
Family History:
Brother with throat cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
Vital Signs: 97.2 120/65 92 18 99 Ra  
General: AOx1 (name only), somewhat tired  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding; G-tube in upper abdomen 
without surrounding erythema and no obvious bleeding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:  
========================
VITALS:  98.1 98/50 85 18 98% RA
GENERAL: Alert, orientedx2 (self and place only), no acute 
distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
NECK: Supple, JVP not elevated, no LAD  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
organomegaly, no rebound or guarding; G-tube in upper abdomen 
without obvious bleeding   
GU: no foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII grossly intact, moving all extermities, gait 
deferred.   
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:40PM BLOOD WBC-10.8* RBC-2.75* Hgb-8.1* Hct-25.0* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-16.9* RDWSD-55.6* Plt ___
___ 06:40PM BLOOD Neuts-75.7* Lymphs-14.8* Monos-8.2 
Eos-0.0* Baso-0.1 NRBC-0.2* Im ___ AbsNeut-8.20* 
AbsLymp-1.60 AbsMono-0.89* AbsEos-0.00* AbsBaso-0.01
___ 06:40PM BLOOD ___ PTT-25.5 ___
___ 06:40PM BLOOD Plt ___
___ 06:40PM BLOOD Glucose-95 UreaN-70* Creat-0.9 Na-146* 
K-4.2 Cl-109* HCO3-25 AnGap-16
___ 06:40PM BLOOD ALT-18 AST-28 AlkPhos-75 TotBili-0.2
___ 06:40PM BLOOD Lipase-56
___ 06:40PM BLOOD Albumin-3.3* Calcium-8.4 Phos-2.9 Mg-2.5

PERTINENT RESULTS:
==================
___ 6:40 pm BLOOD CULTURE: (Pending) 

DISCHARGE LABS:
===============
___ 07:32AM BLOOD WBC-5.3 RBC-2.41* Hgb-7.0* Hct-22.0* 
MCV-91 MCH-29.0 MCHC-31.8* RDW-16.8* RDWSD-55.7* Plt ___
___ 07:32AM BLOOD Glucose-83 UreaN-25* Creat-0.7 Na-145 
K-4.1 Cl-111* HCO3-25 AnGap-13
___ 07:32AM BLOOD Calcium-7.9* Phos-3.5 Mg-2.___ yo M with PMH of HTN, dementia, GERD, esophageal strictures 
s/p dilation (___), with G-tube (placed ___ who presents as 
a transfer from ___ with melena. 

#GIB: in setting of esophageal strictures and heartburn concern 
would be for esophageal pathology vs PUD. Last G-tube 
manipulation mid ___, which is also a potential source (though 
site looks benign). His hemoglobin downtrended from 7.8 on ___ 
to 7 on ___, and he received 1 Unit PRBC.  BUN downtrended 
likely due to bleeding resolution and nursing noted brown stools 
on ___. GI consulted and determined no urgent need for 
intervention with plan to recheck CBC as an outpatient.  If 
patient continues to have melena can discuss with advanced GI to 
see if they are able to successfully scope him. 

#Hypernatremia & Hyperchloremia: Likely from NS boluses from 
OSH. Electrolytes were trended and given free water flushes on 
___ with resolution of sodium from 148 on admission to 145 at 
discharge. Home nutrition of 1.5 cans of Jevity 4x/day was 
restarted.

#Dementia: donepezil + memantine by G-tube and home Seroquel PRN 
for agitation.

#HTN: held home diltiazem due to SBPs 100s-120s. Follow up with 
PCP ___ to resume. 
#GERD: Carafate + prevacid at home, substituting with protonix 
here 
#GOC: HCP is ___ and confirmed DNR/DNI; will need to fill out 
MOLST 

Transitional Issues:
====================
Stopped Medications: hold diltiazem until f/u with PCP

___: None

Started Medications: None

To-do list:
[ ] f/u with outpatient GI on ___ for esophageal strictures.  
Discuss with advanced GI to see if they have any options for 
scoping if indicated. 
[ ] f/u with PCP ___ ___ and recheck Hgb
[ ] consider restarting diltiazem when hypertensive as 
outpatient
[ ] Please check CBC on ___ at ___ ___. Also consider 
frequent checks to ensure CBC is stable

# CODE: DNR/DNI (confirmed) 
# CONTACT: ___ (daughter, HCP); ___ (daughter) 
___

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Sucralfate 1 gm PO QID 
3. FoLIC Acid 1 mg PO DAILY 
4. PrevACID SoluTab 30 mg Other BID 
5. Diltiazem 120 mg PO BID 
6. Aricept (donepezil) 10 mg oral DAILY 
7. Memantine 5 mg PO DAILY 
8. QUEtiapine Fumarate 6.25 mg PO DAILY:PRN anxiety, mood 
disturbance 
9. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Aricept (donepezil) 10 mg oral DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Memantine 5 mg PO DAILY  
6.  PrevACID SoluTab 30 mg Other BID  
7.  QUEtiapine Fumarate 6.25 mg PO DAILY:PRN anxiety, mood 
disturbance  
8.  Sucralfate 1 gm PO QID  
9. HELD- Diltiazem 120 mg PO BID  This medication was held. Do 
not restart Diltiazem until you have talked with your PCP 
because your blood pressure has been low while you were in the 
hospital.
10.Outpatient Lab Work
ICD 10 - D64.9. Please check CBC on ___
Send to Dr ___, Fax ___ ___ 
___)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Gastrointestinal Bleed

Secondary Diagnosis:
Hypertension

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___, 

Thank you for choosing to receive your care at ___. You were 
admitted for a gastrointestinal bleed due to your dark stools. 
Your blood counts remained largely stable (despite slight 
downtrending) during the hospitalization, suggesting that your 
bleed had resolved. 

Because your blood counts were a little low on ___, you 
received 1 unit of blood. The gastroenterology team was 
consulted and determined that no urgent procedure was needed. 
You will follow-up with gastroenterology as an outpatient. 
Please also ensure your doctors ___ your ___ count when you 
see them.

Moving forward, you should restart all your home medications as 
listed below, and attend the listed follow up appointments. You 
will follow-up with your PCP on ___ (please ensure a 
blood count is checked on this appointment).

We wish you the best with your ongoing recovery. 

Sincerely, 
Your ___ care team
 
Followup Instructions:
___